US05547983
a) Methyl 6-[3-(1-adamantyl)-4-(N-triphenylmethyl-3-aminopropyloxy)phenyl]-2-naphthoate
360 mg (12 mmol) of sodium hydride (80% in oil) and 50 ml of DMF are introduced into a three-necked round-bottomed flask. A solution of 4.1 g (10 mmol) of methyl 6-[3-(1-adamantyl)-4-hydroxyphenyl]-2-naphthoate in 75 ml of DMF are added dropwise, under a nitrogen stream, and the mixture is stirred until the evolution of gas ceases. A solution of 42 g (11 mmol) of N-triphenylmethyl-3-bromopropylamine in 50 ml of DMF is then introduced dropwise and the mixture is stirred at room temperature for 8 h. The reaction medium is poured into water, extracted with ethyl ether, the organic phase separated after settling has taken place, washed with water, dried over magnesium sulphate and evaporated. The residue obtained is purified by silica chromatography, eluted with a dichloromethane and hexane mixture (40-60). After evaporation of the solvents, 4.7 g (66%) of the expected product are recovered, which product melts at 168°-9° C.

reactant | sodium hydride | 12 mmol, 360 mg | [H-].[Na+]
reactant | methyl 6-[3-(1-adamantyl)-4-hydroxyphenyl]-2-naphthoate | 10 mmol, 4.1 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2O)C=2C=C3C=CC(=CC3=CC2)C(=O)OC | C28H28O3
reactant | N-triphenylmethyl-3-bromopropylamine | 11 mmol, 42 g | C1(=CC=CC=C1)C(NCCCBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22BrN
reactant | water | O | H2O
solvent | DMF | 75 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | Methyl 6-[3-(1-adamantyl)-4-(N-triphenylmethyl-3-aminopropyloxy)phenyl]-2-naphthoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCCCNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=2C=C3C=CC(=CC3=CC2)C(=O)OC | C50H49NO3
